US05318966
A mixture of 0.12 g (0.28 mol) of rac-N-[4-(cis-1,2,3a, 4,5,9b-hexahydro-6-hydroxy-3H-benzo[e]indol-3-yl)butyl]phthalimide hydrochloride, 0.03 ml (0.34 mmol) of dimethylcarbamoyl chloride, 0.05 ml (0.34 mmol) of triethylamine and 0.042 g (0.34 mmol) of 4-dimethylaminopyridine in 10 ml of toluene was boiled under reflux for 4 hours and then poured into water. The mixture was extracted with toluene, the extracts were dried with sodium sulphate and the solvent was distilled off in a vacuum. The residue was chromatographed over silica gel with methylene chloride/methanol (20:1) and then dissolved in ethanol. The solution was treated with ethanolic HCl and concentrated. The residue was dissolved in methylene chloride, ether was added thereto, the solvent was distilled off and there was obtained 0.11 g (79%) of rac-cis-2,3,3a,4,5,9b-hexahydro-3-(4-phthalimidobutyl)-1H-benzo[e]indol-6-yl dimethylcarbamate hydrochloride as a foam.

reactant | rac-N-[4-(cis-1,2,3a, 4,5,9b-hexahydro-6-hydroxy-3H-benzo[e]indol-3-yl)butyl]phthalimide hydrochloride | 0.28 mol, 0.12 g | Cl.OC1=CC=CC=2[C@H]3CCN([C@H]3CCC21)CCCCN2C(C=1C(C2=O)=CC=CC1)=O
reactant | dimethylcarbamoyl chloride | 0.34 mmol, 0.03 ml | CN(C(=O)Cl)C | C3H6ClNO
reactant | triethylamine | 0.34 mmol, 0.05 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
catalyst | 4-dimethylaminopyridine | 0.34 mmol, 0.042 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | rac-cis-2,3,3a,4,5,9b-hexahydro-3-(4-phthalimidobutyl)-1H-benzo[e]indol-6-yl dimethylcarbamate hydrochloride | 0.11 g, 79% | Cl.CN(C(OC1=CC=CC=2[C@H]3CCN([C@H]3CCC21)CCCCN2C(C=1C(C2=O)=CC=CC1)=O)=O)C | InChI=1S/C27H31N3O4.ClH/c1-28(2)27(33)34-24-11-7-10-18-19-14-17-29(23(19)13-12-20(18)24)15-5-6-16-30-25(31)21-8-3-4-9-22(21)26(30)32;/h3-4,7-11,19,23H,5-6,12-17H2,1-2H3;1H/t19-,23+;/m1./s1
